US04829067
2.5 g of 2-phenylbenzofuran-7-carboxylic acid is dissolved in a mixture of 80 ml of methanol and 16 ml of tetrahydrofuran and 0.5 g of platinum oxide is added to the solution. The mixture is subjected to catalytic hydrogenation under atmospheric pressure. The reaction mixture is filtered and the filtrate is evaporated to remove solvent. The residue is purified by silica gel column chromatography (solvent; chloroform:methanol=20:1) to give 1.54 g of 2-cyclohexylbenzofuran-7-carboxylic acid as colorless oil.

reactant | 2-phenylbenzofuran-7-carboxylic acid | 2.5 g | C1(=CC=CC=C1)C=1OC2=C(C1)C=CC=C2C(=O)O | C15H10O3
solvent | methanol | 80 ml | CO | CH4O
solvent | tetrahydrofuran | 16 ml | O1CCCC1 | C4H8O
catalyst | platinum oxide | 0.5 g | [Pt]=O
product | 2-cyclohexylbenzofuran-7-carboxylic acid | 1.54 g | C1(CCCCC1)C=1OC2=C(C1)C=CC=C2C(=O)O | C15H16O3
